data/mechanism_extracts/ChemSci/10.1039_D2SC04027A_sup_1.json
{"doi": "10.1039_D2SC04027A_sup_1", "journal": "ChemSci", "is_review": false, "rxn_class_summary": "Electrochemical methoxysulfonylation/cyclization of N-methacryloyl-N-methylbenzamide with NaHSO3 and MeOH to form a methylsulfonyl-functionalized isoquinolinedione", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of bisulfite (HSO3-) to a sulfonyl radical (and/or oxidation of methanol-derived species), which adds to the methacrylamide alkene to trigger radical cyclization", "key_intermediates": [{"name": "methoxysulfonyl/sulfonyl radical from NaHSO3 + MeOH", "smiles": null, "role": "reactive"}, {"name": "carbon-centered radical from sulfonyl radical addition to methacrylamide alkene", "smiles": null, "role": "transient"}, {"name": "aryl/cyclohexadienyl radical after intramolecular ipso/ortho cyclization onto benzamide arene", "smiles": null, "role": "transient"}, {"name": "methoxy-substituted alpha-aryl-beta-methylsulfonyl ethanol model compound (NMR D-labeling study)", "smiles": null, "role": "intermediate_trap"}], "electron_flow": "Anode oxidizes bisulfite to a sulfonyl radical that adds to the terminal alkene of the methacrylamide; the resulting tertiary C-radical undergoes intramolecular cyclization onto the pendant aryl ring, followed by rearomatization (further oxidation/loss of H+) with MeOH incorporation to give the methoxy/methylsulfonyl-functionalized isoquinolinedione product.", "rate_determining_step": null, "probe_reagents": [{"name": "deuterated MeOH (CD3OD / H/D labeling)", "smiles": "[2H]C([2H])([2H])O[2H]", "purpose": "isotope_label", "observation": "1H NMR integrations on model methoxysulfonyl product show partial D incorporation (0.24D and 0.65D at OMe/SO2OMe positions), consistent with MeOH being the source of the methoxy group"}, {"name": "N-methacryloyl-N-methylbenzamide (radical cyclization substrate)", "smiles": "O=C(N(C)C(=O)C(=C)C)c1ccccc1", "purpose": "intermediate_trap", "observation": "Electrolysis with MeOH/NaHSO3 gives the cyclized isoquinoline-1,3-dione bearing a CH2SO2OMe group (product 7, 18%), supporting a radical addition/cyclization pathway"}], "evidence_types_used": ["H/D_labeling", "radical_clock", "product_isotope_distribution", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "The radical-cyclization probe (substrate 6 → isoquinolinedione 7) functions as a radical clock, indicating a sulfonyl-radical addition followed by intramolecular aryl cyclization. H/D labeling on a model sulfonate ester suggests MeOH is the methoxy source. No TEMPO/BHT trapping or DFT was shown on this page."}
